US04299840
1-Decyl-azacyclopentan-2-one
22.1 g 1-Bromodecane (0.1 mol), 8.5 g (0.1 mol) of 2-pyrrolidone and 11.2 g (0.1 mol) of potassium tert-butylate were stirred in 100 ml of absolute DMSO for one hour. The DMSO was removed under reduced pressure, the residue taken up with diethyl ether, and washed with water (2 times). After drying with anhydrous MgSo4 and evaporating, the residue was distilled in vacuo. A first fraction, boiling between 140° and 147° C./1.2 mm Hg was discarded. The second fraction 17.4 g of pure product, b.p. 148° C./1.2 mm Hg.

reactant | 1-Bromodecane | 0.1 mol, 22.1 g | BrCCCCCCCCCC | C10H21Br
reactant | 2-pyrrolidone | 0.1 mol, 8.5 g | N1C(CCC1)=O | C4H7NO
reactant | potassium tert-butylate | 0.1 mol, 11.2 g | CC(C)(C)[O-].[K+]
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 1-Decyl-azacyclopentan-2-one | C(CCCCCCCCC)N1C(CCC1)=O | C14H27NO
